US06710205B2
Under atmosphere of argon, to a solution of zinc powder (1.89 g) in anhydrous THF (15 ml) was added dibromoethane (116 ul) and the mixture was stirred for five minutes at 60° C. To the reaction mixture was added a solution of 2-bromomethylbenzoic acid methyl ester (4.42 g) in anhydrous THF (15 ml) over a period of 30 minutes at 0° C. and the mixture was stirred for 2 hours at the temperature to give a 2-carbomethoxybenzylzinc (II) bromide (benzyl zinc) solution.

reactant | zinc | 1.89 g | [Zn] | Zn
reactant | dibromoethane | 116 ul | BrC(C)Br | C2H4Br2
reactant | 2-bromomethylbenzoic acid methyl ester | 4.42 g | COC(C1=C(C=CC=C1)CBr)=O | C9H9BrO2
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 2-carbomethoxybenzylzinc (II) bromide | [Br-].C(=O)(OC)C1=C(C[Zn+])C=CC=C1 | InChI=1S/C9H9O2.BrH.Zn/c1-7-5-3-4-6-8(7)9(10)11-2;;/h3-6H,1H2,2H3;1H;/q;;+1/p-1
